US07335648B2
3-{6-[6-(3-Ethyl-ureido)-purin-9-yl]-2-styryl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl}-propionic acid
3-{6-[6-(3-Ethyl-ureido)-purin-9-yl]-2-styryl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl}-propionic acid methyl ester (5.0 g, 10 mmol) was dissolved in tetrahydrofuran (300 mL). Water (100 mL) was added, followed by lithium hydroxide (1.0 g, 25 mmol). The solution was allowed to stir 16 h at room temperature. It was acidified to pH 5 with acetic acid, concentrated in vacuo, then extracted with chloroform (300 mL). The organic extract was evaporated, redissolved in ethyl acetate and precipitated with heptane to afford the final product (3.9 g, 80%). 1H-NMR (300 MHz, d6 DMSO) δ 1.14 (t 3H, J=7 Hz), 1.90 (m, 2H), 2.19 (m, 2H), 3.26 (q, 2H, 3=6 Hz), 4.17 (m, 1H), 4.93 (ψt, 1H, J=6 Hz), 5.43 (dd, 1H, J=3 Hz, 7 Hz), 5.84 (d 1H, J=6 Hz), 6.24 (d, 1H, J=3 Hz), 6.28 (dd, 1H, J=7 Hz, 13 Hz), 6.90 (d, 1H, J 16 Hz), 7.35 (m, 3H), 7.51 (d, 2H, 3=7 Hz), 8.56 (s, 1H), 8.61 (s, 1H), 9.30 (t, 1H, 3=6 Hz).

reactant | 3-{6-[6-(3-Ethyl-ureido)-purin-9-yl]-2-styryl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl}-propionic acid methyl ester | 10 mmol, 5.0 g | COC(CCC1OC(C2OC(OC21)C=CC2=CC=CC=C2)N2C1=NC=NC(=C1N=C2)NC(=O)NCC)=O | C25H28N6O6
reactant | Water | 100 mL | O | H2O
reactant | lithium hydroxide | 25 mmol, 1.0 g | [OH-].[Li+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 3-{6-[6-(3-Ethyl-ureido)-purin-9-yl]-2-styryl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl}-propionic acid | 3.9 g, 80% | C(C)NC(NC1=C2N=CN(C2=NC=N1)C1OC(C2C1OC(O2)C=CC2=CC=CC=C2)CCC(=O)O)=O | C24H26N6O6
